US07834039B2
4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzaldehyde (150 mg, 0.438 mmol), (2,2-dimethyl-1,3-dioxolan-4-yl)methanamine (0.057 mL, 0.438 mmol), methanol (4 mL), and acetic acid (0.125 mL, 2.188 mmol) were loaded into a 25 mL flask equipped with a stirring bar. The mixture was stirred for about 10 minutes at room temperature under nitrogen. Sodium cyanoborohydride (27.5 mg, 0.438 mmol) was added in one portion, and the reaction mixture was stirred at room temperature overnight. Solvent was removed under reduced pressure and crude material was purified by RP-HPLC (A=50 mM ammonium acetate, B=ACN; 40% to 80% B over 30 min at 21.0 mL/min; UV λ=254 nm; Thermo Hyperprep HS C18, 8 μm, 250×21.2 mm column). Fractions containing product were combined, rotovapped and lyophilized to give N-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzyl)-1-(2,2-dimethyl-1,3-dioxolan-4-yl)methanamine (130.9 mg, 64.7%) as a white solid. LCMS (Table 1, Method c) Rt=2.59 min, m/z 458.62 (M+H)+; 1H NMR (400 MHz, DMSO) δ ppm 8.13 (d, 2H), 8.06 (d, 1H), 8.00 (dd, 1H), 7.61 (d, 2H), 7.39 (d, 1H), 4.82 (sept, 1H), 4.15 (p, 1H), 3.99 (dd, 1H), 3.84 (s, 2H), 3.63 (dd, 1H), 2.61 (ddd, 2H), 1.86 (s, 4H), 1.35 (d, 6H) 1.26 (s, 3H).

reactant | 4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzaldehyde | 0.438 mmol, 150 mg | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C18H15ClN2O3
reactant | (2,2-dimethyl-1,3-dioxolan-4-yl)methanamine | 0.438 mmol, 0.057 mL | CC1(OCC(O1)CN)C | C6H13NO2
reactant | acetic acid | 2.188 mmol, 0.125 mL | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 0.438 mmol, 27.5 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
product | N-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzyl)-1-(2,2-dimethyl-1,3-dioxolan-4-yl)methanamine | 130.9 mg, 64.7% | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(CNCC2OC(OC2)(C)C)C=C1 | C24H28ClN3O4
